US06878707B2
A mixture of 94.55 g of (R)-(5-bromo-indan-2-yl)-carbamic acid methyl ester, 69.78 g of benzophenone imine, 2.32 g of (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, 26.47 g of sodium methoxide, and 1.60 g of tris(dibenzylideneacetone)dipaladium(0) in 875 mL of deoxygenated and dry toluene is stirred under nitrogen and heated to an internal temperature of 70-75° C. over a period of 15 minutes. The mixture is stirred at this temperature for 16 hours, and cooled to 30-35° C. over a period of 30 minutes. Isopropyl acetate (875 mL) is added over a period of about 15 minutes and the mixture is further cooled to 20-25° C. Water (875 mL) is added over a period of about 15 minutes and the suspension is stirred for an additional 10 minutes. The solid is collected and washed with 175 mL of toluene followed by 263 mL of water to obtain crude (R)-[5-(diphenylmethylene)amino-indan-2-yl]-carbamic acid methyl ester as a yellow solid. The reaction flask, Buchner funnel, and filtration flask are washed with about 400 mL of isopropyl acetate and this is combined with the filtrate. The organic layer is separated and washed with a solution of 43.75 g of citric acid in 831 mL of water to afford a solution of additional crude (R)-[5-(diphenylmethylene)amino-indan-2-yl]-carbamic acid methyl ester which is added to the above crude product. 2 N Hydrochloric acid (170 mL) is added and the mixture is stirred at an internal temperature of 20-25° C. for 16 hours. Water (350 mL) is then added and the biphasic solution is stirred for an additional 10 minutes. The mixture is filtered, the aqueous layer is separated and washed with a total of 1750 mL of isopropyl acetate in two equal portions to yield about 2200 mL of a solution of (R)-(5-amino-indan-2-yl)-carbamic acid methyl ester hydrochloride. The solution is cooled to 0-5° C. over a period of 15 minutes. 2 N sodium hydroxide (2175 mL) is added to adjust the pH to 8-9 in 45 minutes while maintaining an internal temperature below 18° C. A solution of 93.5 g of sodium chloride in 267 mL of water is added and the resulting suspension is stirred at this temperature for an additional 30 minutes. The solid is collected by filtration and washed with 438 mL of water in two equal portions. The solid is dried at 55-60° C. under vacuum (10-30 torr) with nitrogen bleeding to obtain crude (R)-(5-amino-indan-2-yl)-carbamic acid methyl ester as a solid.

reactant | (R)-(5-bromo-indan-2-yl)-carbamic acid methyl ester | 94.55 g | COC(N[C@@H]1CC2=CC=C(C=C2C1)Br)=O | C11H12BrNO2
reactant | benzophenone imine | 69.78 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.32 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium methoxide | 26.47 g | C[O-].[Na+]
reactant | Hydrochloric acid | 2 N, 170 mL | Cl | ClH
solvent | Water | 350 mL | O | H2O
product | (R)-(5-amino-indan-2-yl)-carbamic acid methyl ester hydrochloride | Cl.COC(N[C@@H]1CC2=CC=C(C=C2C1)N)=O | InChI=1S/C11H14N2O2.ClH/c1-15-11(14)13-10-5-7-2-3-9(12)4-8(7)6-10;/h2-4,10H,5-6,12H2,1H3,(H,13,14);1H/t10-;/m1./s1
